US07030262B2
ethyl (2S,3R)-3-[(tert-butoxycarbonyl)amino]-2-hydroxy-6-phenylhexanoate
A solution of tert-butylcarbamate (1.00 g, 8.55 mmol), tert-butylhypochlorite (0.96 mL, 8.5 mmol), and 0.5M NaOH (17 mL, 8.5 mmol) in 1-propanol (30 mL) at room temperature was stirred for 15 minutes. Example 9B (0.614 g, 2.82 mmol), potassium osmate dihydrate (0.030 g, 0.08 mmol) and hydroquinine 1,4-phthalazinediyl diether (0.109 g, 0.14 mmol) were added, and the mixture was stirred at 0° C. for 2 hours, diluted with ethyl acetate, washed sequentially with water, 1M HCl, aqueous NaHCO3, and brine, dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 1:4/ethyl acetate:hexanes to provide the desired product. MS (ESI) m/e 352 (M+H)+.

reactant | tert-butylcarbamate | 8.55 mmol, 1.00 g | C(C)(C)(C)NC([O-])=O
reactant | tert-butylhypochlorite | 8.5 mmol, 0.96 mL | C(C)(C)(C)OCl | C4H9ClO
reactant | NaOH | 8.5 mmol, 0.5M, 17 mL | [OH-].[Na+]
reactant | hydroquinine 1,4-phthalazinediyl diether | 0.14 mmol, 0.109 g | CCC1CN2CCC1CC2C(C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)OC(C7CC8CCN7CC8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1-propanol | 30 mL | C(CC)O | C3H8O
product | ethyl (2S,3R)-3-[(tert-butoxycarbonyl)amino]-2-hydroxy-6-phenylhexanoate | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C(=O)OCC)O)CCCC1=CC=CC=C1 | C19H29NO5
